* Z:\mnt\design.r\spice\examples\3900.asc
XU1 N002 0 N009 N001 N008 0 N010 N013 LTC3900
R1 N001 N010 500K
C1 N010 0 100p
R2 N013 0 100
C2 N013 N012 100p
V1 N001 0 10
V2 N011 0 PULSE(0 10 0 10n 10n 10u 20u)
M§Q1 N004 N008 0 0 Si9936DY
L1 N004 N002 1m
L2 N003 N001 1m
M§Q2 N005 N009 0 0 Si9936DY
L3 N002 OUT 10µ
C3 OUT 0 100µ
M§Q3 N003 N007 0 0 IRF7201
A1 N006 0 0 0 0 0 N007 0 BUF Vhigh=10
A2 N011 0 0 0 0 N012 0 0 BUF Vhigh=10
D1 N006 N011 D
C4 N006 0 100p
R3 N002 N005 100m
Rload OUT 0 1
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m
.model D D(Ron=1 Roff=700)
K1 L1 L2 1.
.lib LTC3900.sub
.backanno
.end
